* File: DFF.pex.netlist.pex
* Created: Sat May 20 19:38:39 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFF%W2 84 85 89 94 101 105 119 123 132 136
c0 206 0 0.014095f
c1 205 0 0.0309994f
c2 198 0 0.0362026f
c3 196 0 5.98383e-19
c4 191 0 0.0468973f
c5 184 0 0.0492953f
c6 169 0 0.0761932f
c7 159 0 0.162896f
c8 154 0 0.103038f
c9 140 0 0.0493524f
c10 139 0 0.0464551f
c11 138 0 0.0467225f
c12 136 0 0.140134f
c13 132 0 0.0982893f
c14 125 0 0.115247f
c15 123 0 0.132511f
c16 119 0 0.101274f
c17 115 0 0.0976521f
c18 112 0 0.119835f
c19 110 0 0.077037f
c20 109 0 0.128799f
c21 105 0 0.131354f
c22 101 0 0.10893f
c23 88 0 0.172672f
c24 82 0 0.0929707f
c25 79 0 0.0264154f
c26 78 0 0.0494484f
c27 75 0 0.10255f
c28 72 0 0.0990012f
c29 71 0 0.0857855f
c30 68 0 0.0612776f
c31 65 0 0.0422252f
c32 64 0 0.0832283f
c33 61 0 0.0668084f
c34 58 0 0.0959971f
c35 57 0 0.0321945f
c36 54 0 0.0237064f
c37 51 0 0.00503981f
c38 50 0 0.0527825f
c39 47 0 0.137137f
c40 44 0 0.0219725f
c41 43 0 0.0283383f
c42 28 0 0.0103586f
c43 27 0 0.0448465f
c44 26 0 0.242536f
c45 25 0 0.0262743f
c46 22 0 0.0557046f
c47 21 0 0.0216882f
c48 19 0 0.0190313f
c49 14 0 0.153078f
r50 203 206 0.00377
r51 203 205 0.0488691
r52 198 201 0.0487391
r53 196 205 0.2327
r54 193 196 0.0486091
r55 188 191 0.0486091
r56 134 140 7.73958
r57 134 136 35.25
r58 130 140 7.73958
r59 130 132 25.25
r60 127 169 13.2552
r61 125 140 1.29764
r62 125 127 8.71277
r63 121 139 7.73958
r64 121 123 35.25
r65 117 139 7.73958
r66 117 119 25.25
r67 114 115 13.2552
r68 112 139 1.29764
r69 112 114 7.1617
r70 109 110 13.2552
r71 107 138 1.29764
r72 107 109 8.15745
r73 103 138 7.73958
r74 103 105 35.25
r75 99 138 7.73958
r76 99 101 25.25
r77 96 154 16.3327
r78 94 96 4.608
r79 91 159 8.16635
r80 89 91 2.304
r81 87 88 8.16635
r82 85 87 2.304
r83 84 87 2.286
r84 82 169 8
r85 79 184 8
r86 78 82 8
r87 78 79 8
r88 75 115 8
r89 72 209 8
r90 71 75 8
r91 71 72 8
r92 68 159 8
r93 65 203 8
r94 64 68 8
r95 64 65 8
r96 61 154 8
r97 58 198 8
r98 57 61 8
r99 57 58 8
r100 54 88 8
r101 51 193 8
r102 50 54 8
r103 50 51 8
r104 47 110 8
r105 44 188 8
r106 43 47 8
r107 43 44 8
r108 29 184 0.0767
r109 26 29 0.0837604
r110 26 27 0.5395
r111 25 209 0.0163203
r112 24 27 0.0418299
r113 24 25 0.05135
r114 23 28 0.0325
r115 22 209 0.0255096
r116 22 23 0.221
r117 21 206 0.0255799
r118 20 28 0.0325
r119 20 21 0.104
r120 19 28 0.0325
r121 19 201 0.1014
r122 14 28 0.0325
r123 14 191 0.7423
.ends

.subckt PM_DFF%W1 72 73 77 82 94 98 102 106
c0 175 0 0.0705951f
c1 173 0 0.0262089f
c2 170 0 0.0200582f
c3 168 0 0.0311704f
c4 165 0 0.0289092f
c5 163 0 0.0138226f
c6 160 0 0.0122944f
c7 159 0 0.0301093f
c8 155 0 1.94548e-21
c9 138 0 0.106215f
c10 133 0 0.0716684f
c11 114 0 0.047368f
c12 113 0 0.0467008f
c13 110 0 0.112681f
c14 106 0 0.140745f
c15 102 0 0.107599f
c16 98 0 0.130801f
c17 94 0 0.10471f
c18 87 0 0.122926f
c19 85 0 0.114464f
c20 80 0 0.132995f
c21 76 0 0.169512f
c22 70 0 0.183423f
c23 67 0 0.021839f
c24 66 0 0.0364793f
c25 63 0 0.0883205f
c26 60 0 0.019112f
c27 59 0 0.0202146f
c28 56 0 0.141235f
c29 53 0 0.0261777f
c30 52 0 0.0141853f
c31 49 0 0.064704f
c32 46 0 0.00433285f
c33 45 0 0.00709068f
c34 42 0 0.0151901f
c35 39 0 0.00186282f
c36 38 0 2.06977e-21
c37 26 0 0.00204639f
c38 21 0 0.0164233f
c39 20 0 0.844498f
c40 19 0 0.0148438f
c41 17 0 0.0168598f
r42 173 175 0.0487391
r43 168 170 0.0488691
r44 163 166 0.0487391
r45 163 165 0.0487391
r46 157 160 0.00377
r47 157 159 0.0488691
r48 155 159 0.2301
r49 152 155 0.0486091
r50 110 138 13.2552
r51 108 114 1.29764
r52 108 110 5.93617
r53 104 114 7.73958
r54 104 106 35.25
r55 100 114 7.73958
r56 100 102 25.25
r57 96 113 7.73958
r58 96 98 35.25
r59 92 113 7.73958
r60 92 94 25.25
r61 89 133 13.2552
r62 87 113 1.29764
r63 87 89 7.1617
r64 84 85 16.3327
r65 82 84 4.608
r66 79 80 8.16635
r67 77 79 2.304
r68 75 76 8.16635
r69 73 75 2.304
r70 72 75 2.286
r71 70 138 8
r72 67 173 8
r73 66 70 8
r74 66 67 8
r75 63 133 8
r76 60 168 8
r77 59 63 8
r78 59 60 8
r79 56 85 8
r80 53 163 8
r81 52 56 8
r82 52 53 8
r83 49 80 8
r84 46 157 8
r85 45 49 8
r86 45 46 8
r87 42 76 8
r88 39 152 8
r89 38 42 8
r90 38 39 8
r91 24 175 0.3601
r92 23 26 0.00715299
r93 23 170 0.1885
r94 20 24 0.0363174
r95 20 21 3.1057
r96 19 160 0.0255799
r97 18 26 0.0275239
r98 18 19 0.1196
r99 17 26 0.0275239
r100 17 166 0.0858
r101 14 21 0.0363174
r102 14 165 0.1586
.ends

.subckt PM_DFF%Q 20 42 43 47 54 58
c0 71 0 0.134203f
c1 61 0 0.107544f
c2 58 0 0.176613f
c3 54 0 0.10892f
c4 50 0 0.0725453f
c5 49 0 0.0148025f
c6 46 0 0.168187f
c7 40 0 0.135033f
c8 37 0 0.0456049f
c9 36 0 0.0287078f
c10 33 0 0.129792f
c11 30 0 0.0911252f
c12 29 0 0.0703345f
c13 25 0 0.0238859f
c14 22 0 0.0763961f
c15 18 0 0.016849f
c16 17 0 0.289106f
c17 16 0 0.0912874f
c18 13 0 0.0381539f
c19 11 0 0.0440677f
c20 9 0 0.100344f
r21 62 71 0.052284
r22 61 64 8.07448
r23 61 63 8.07448
r24 61 62 13.2552
r25 58 64 35.25
r26 54 63 25.25
r27 49 50 16.3327
r28 47 49 4.59
r29 45 46 8.16635
r30 43 45 2.385
r31 42 45 2.295
r32 40 71 8
r33 37 84 0.0487391
r34 36 40 8
r35 36 37 8
r36 30 81 0.0487391
r37 29 33 8
r38 29 30 8
r39 22 25 0.00715299
r40 22 84 0.4823
r41 18 20 1.1635
r42 17 25 0.0275239
r43 17 20 0.3601
r44 16 18 0.0363174
r45 16 81 0.4719
r46 13 50 0.175
r47 12 46 0.155217
r48 9 12 0.0516853
r49 9 11 0.0516853
r50 9 33 8
r51 5 13 0.039111
r52 5 11 0.108043
.ends

.subckt PM_DFF%RESET 17 52 56 60 64 73 77
c0 115 0 0.0797583f
c1 110 0 0.0702774f
c2 90 0 0.040685f
c3 86 0 0.0474003f
c4 85 0 0.0512875f
c5 84 0 0.0425921f
c6 82 0 0.0742678f
c7 81 0 0.0974615f
c8 77 0 0.142f
c9 73 0 0.101435f
c10 69 0 0.160625f
c11 68 0 0.107554f
c12 64 0 0.140558f
c13 60 0 0.108543f
c14 56 0 0.129811f
c15 52 0 0.093664f
c16 45 0 0.105271f
c17 43 0 0.117878f
c18 40 0 0.044703f
c19 39 0 0.0275613f
c20 36 0 0.12029f
c21 33 0 0.168599f
c22 32 0 0.113071f
c23 29 0 0.030794f
c24 26 0 0.0351587f
c25 25 0 0.0148317f
c26 20 0 0.0151934f
c27 14 0 0.67941f
c28 13 0 0.150077f
c29 11 0 0.0139477f
c30 10 0 0.708228f
r31 81 82 13.2552
r32 79 86 1.29764
r33 79 81 5.93617
r34 75 86 7.73958
r35 75 77 35.25
r36 71 86 7.73958
r37 71 73 25.25
r38 68 69 13.2552
r39 66 85 1.29764
r40 66 68 5.95532
r41 62 85 7.73958
r42 62 64 35.25
r43 58 85 7.73958
r44 58 60 25.25
r45 54 84 7.73958
r46 54 56 35.25
r47 50 84 7.73958
r48 50 52 25.25
r49 47 90 13.2552
r50 45 84 1.29764
r51 45 47 8.69362
r52 43 82 8
r53 40 115 0.0487391
r54 39 43 8
r55 39 40 8
r56 36 69 8
r57 33 113 0.0501205
r58 32 36 8
r59 32 33 8
r60 29 90 8
r61 26 110 0.0487391
r62 25 29 8
r63 25 26 8
r64 18 115 0.377
r65 15 20 0.0275239
r66 15 17 0.6617
r67 14 18 0.0363174
r68 14 17 1.6432
r69 13 113 0.0254528
r70 12 20 0.00715299
r71 12 13 0.3601
r72 10 20 0.0275239
r73 10 11 2.2503
r74 8 11 0.0363174
r75 8 110 0.3783
.ends

.subckt PM_DFF%CLK 17 25 29 33 37
c0 57 0 0.114725f
c1 45 0 0.110289f
c2 41 0 0.0874307f
c3 40 0 0.106691f
c4 37 0 0.163023f
c5 33 0 0.112457f
c6 29 0 0.163662f
c7 25 0 0.108578f
c8 20 0 0.151712f
c9 19 0 0.0739215f
c10 14 0 0.0699432f
c11 13 0 0.073309f
c12 11 0 0.113276f
c13 8 0 0.487452f
c14 7 0 0.208545f
r15 46 57 0.0418495
r16 45 48 8.07448
r17 45 47 8.07448
r18 45 46 13.2552
r19 40 43 8.07448
r20 40 42 8.07448
r21 40 41 13.2552
r22 37 48 35.25
r23 33 47 25.25
r24 29 43 35.25
r25 25 42 25.25
r26 20 57 8
r27 19 22 0.0487391
r28 19 20 8
r29 14 41 8
r30 13 15 0.0236117
r31 13 14 8
r32 11 22 0.52
r33 9 17 0.0181587
r34 8 11 0.0363174
r35 8 9 1.4079
r36 7 17 0.0181587
r37 6 15 0.0242224
r38 6 7 0.52
.ends

.subckt PM_DFF%W3 19 20 24 36 40
c0 49 0 0.0158435f
c1 47 0 0.0967184f
c2 44 0 0.0194821f
c3 42 0 0.0435477f
c4 40 0 0.137162f
c5 36 0 0.097585f
c6 32 0 0.0625852f
c7 29 0 0.125222f
c8 27 0 0.0594089f
c9 23 0 0.162298f
c10 18 0 0.0361934f
c11 16 0 0.0301167f
c12 15 0 0.12496f
c13 14 0 0.0853577f
c14 5 0 0.0299296f
c15 4 0 0.212746f
r16 47 49 0.0487391
r17 38 42 7.73958
r18 38 40 35.25
r19 34 42 7.73958
r20 34 36 25.25
r21 32 47 8
r22 31 32 13.2552
r23 29 42 1.29764
r24 29 31 8.69362
r25 26 27 16.3327
r26 24 26 4.608
r27 22 23 8.16635
r28 20 22 2.394
r29 19 22 2.286
r30 18 27 0.175304
r31 17 23 0.144565
r32 15 44 0.0487391
r33 14 17 0.0516853
r34 14 16 0.0516853
r35 14 15 8
r36 10 18 0.039111
r37 10 16 0.118696
r38 6 49 0.0702
r39 4 6 0.0363174
r40 4 5 0.4186
r41 2 5 0.0363174
r42 2 44 0.0702
.ends

.subckt PM_DFF%W4 30 31 35 40 47 51 65 69
c0 95 0 0.0909205f
c1 93 0 0.113248f
c2 90 0 0.019969f
c3 88 0 0.112706f
c4 85 0 0.00914954f
c5 84 0 0.0915811f
c6 83 0 0.0795167f
c7 76 0 0.0106153f
c8 74 0 0.165587f
c9 72 0 0.0482442f
c10 71 0 0.0412133f
c11 69 0 0.147881f
c12 65 0 0.0968773f
c13 61 0 0.062626f
c14 58 0 0.118433f
c15 56 0 0.102415f
c16 55 0 0.106046f
c17 51 0 0.137847f
c18 47 0 0.093539f
c19 42 0 0.00151295f
c20 38 0 0.145876f
c21 34 0 0.194012f
c22 30 0 0.0052298f
c23 24 0 0.0186262f
c24 23 0 0.0122957f
c25 22 0 0.0138532f
c26 14 0 0.109568f
c27 13 0 0.184776f
c28 11 0 0.0418147f
c29 9 0 0.100301f
c30 8 0 0.0363139f
c31 7 0 0.0250447f
c32 5 0 0.0206012f
c33 4 0 1.06623f
c34 3 0 0.134795f
r35 93 95 0.0487391
r36 88 90 0.0487391
r37 83 85 0.0487391
r38 83 84 8
r39 74 76 0.0488691
r40 67 72 7.73958
r41 67 69 35.25
r42 63 72 7.73958
r43 63 65 25.25
r44 61 93 8
r45 60 61 13.2552
r46 58 72 1.29764
r47 58 60 8.71277
r48 56 74 8
r49 55 56 13.2552
r50 53 71 1.29764
r51 53 55 5.95532
r52 49 71 7.73958
r53 49 51 35.25
r54 45 71 7.73958
r55 45 47 25.25
r56 42 84 16.3327
r57 40 42 4.59
r58 38 88 8
r59 37 38 8.16635
r60 35 37 2.295
r61 34 79 8
r62 33 34 8.16635
r63 31 33 2.295
r64 30 33 2.295
r65 20 95 0.3367
r66 19 24 0.0275239
r67 19 90 0.0741
r68 17 23 0.00715299
r69 17 85 0.0728
r70 15 22 0.0275239
r71 14 20 0.0363174
r72 14 15 0.3744
r73 13 24 0.00715299
r74 12 23 0.0275239
r75 12 13 0.312
r76 11 23 0.0275239
r77 10 22 0.00715299
r78 10 11 0.1755
r79 9 79 0.0487391
r80 8 24 0.0275239
r81 8 9 0.0897
r82 7 76 0.0702
r83 4 22 0.0275239
r84 4 5 3.0667
r85 3 7 0.0363174
r86 2 5 0.0363174
r87 2 3 0.3406
.ends

.subckt PM_DFF%QX 7 28 29 33 38 45 49
c0 73 0 0.011912f
c1 71 0 0.0676524f
c2 68 0 0.0108327f
c3 67 0 0.068606f
c4 66 0 0.0753419f
c5 63 0 0.164782f
c6 59 0 0.107693f
c7 58 0 0.124616f
c8 56 0 0.0428767f
c9 53 0 0.126803f
c10 49 0 0.14207f
c11 45 0 0.104083f
c12 40 0 0.00119568f
c13 36 0 0.110954f
c14 32 0 0.283763f
c15 28 0 0.00105163f
c16 23 0 0.00429221f
c17 22 0 0.129646f
c18 19 0 0.026583f
c19 15 0 0.0760673f
c20 13 0 0.0233528f
c21 12 0 0.0140359f
c22 10 0 0.0190071f
c23 5 0 0.0340249f
c24 4 0 0.53677f
c25 3 0 0.136457f
r26 71 73 0.0487391
r27 66 68 0.0487391
r28 66 67 8
r29 58 61 0.0487391
r30 58 59 8
r31 53 59 13.2552
r32 51 56 1.29764
r33 51 53 8.1383
r34 47 56 7.73958
r35 47 49 35.25
r36 43 56 7.73958
r37 43 45 25.25
r38 40 67 16.3327
r39 38 40 4.59
r40 36 71 8
r41 35 36 8.16635
r42 33 35 2.295
r43 32 63 4
r44 31 32 8.16635
r45 29 31 2.295
r46 28 31 2.295
r47 21 23 0.016412
r48 21 73 0.0741
r49 19 68 0.0728
r50 16 19 0.0356458
r51 16 22 0.2093
r52 14 23 0.0160886
r53 14 15 0.3341
r54 13 23 0.0160886
r55 12 22 0.0323725
r56 12 13 0.0683137
r57 11 63 0.0261333
r58 10 23 0.016412
r59 10 11 0.0884
r60 5 7 1.0725
r61 4 15 0.0363174
r62 4 7 0.442
r63 3 5 0.0363174
r64 3 61 0.4914
.ends

.subckt PM_DFF%GND 9 12 17 22 59 64 69 74 79 84 106 109 115
c0 115 0 0.0274641f
c1 106 0 0.0631583f
c2 102 0 0.0120671f
c3 99 0 0.0180076f
c4 94 0 0.0171148f
c5 89 0 0.00771798f
c6 87 0 0.0855311f
c7 84 0 0.00856598f
c8 82 0 0.0681784f
c9 79 0 0.00173689f
c10 77 0 0.0962413f
c11 74 0 0.00488888f
c12 72 0 0.0711279f
c13 69 0 0.00419961f
c14 67 0 0.088737f
c15 62 0 0.0643016f
c16 59 0 0.00196697f
c17 43 0 0.0708226f
c18 22 0 0.121725f
c19 20 0 0.018121f
c20 18 0 0.0167234f
c21 15 0 0.0130394f
c22 10 0 0.0292614f
c23 7 0 0.00977176f
r24 99 115 0.0195555
r25 87 102 0.223696
r26 86 87 16.3327
r27 84 86 4.59
r28 82 99 0.223696
r29 81 82 16.3327
r30 79 81 4.59
r31 76 77 16.3327
r32 74 76 4.572
r33 72 94 0.223696
r34 71 72 16.3327
r35 69 71 4.572
r36 66 67 16.3327
r37 64 66 4.572
r38 62 89 0.223696
r39 61 62 16.3327
r40 59 61 4.572
r41 55 102 0.0195555
r42 43 109 0.0471739
r43 37 94 0.0195555
r44 25 89 0.0195555
r45 22 55 16.3327
r46 22 115 16.3327
r47 22 43 8.16635
r48 22 37 16.3327
r49 22 106 8.16635
r50 22 25 16.3327
r51 21 77 0.232826
r52 20 109 0.0471739
r53 20 21 0.0461323
r54 19 67 0.232826
r55 18 106 0.0946522
r56 18 19 0.0461323
r57 15 55 0.0195555
r58 15 17 0.0228261
r59 10 37 0.0195555
r60 10 12 0.0517391
r61 7 25 0.0195555
r62 7 9 0.0958696
.ends

.subckt PM_DFF%D 4 8 17
c0 17 0 0.0593003f
c1 11 0 0.119269f
c2 8 0 0.164024f
c3 4 0 0.112199f
r4 11 14 8.07448
r5 11 13 8.07448
r6 11 17 13.2552
r7 8 14 35.25
r8 4 13 25.25
.ends

.subckt PM_DFF%VDD 36 41 42 47 48 52 57 62 67 68 72 77 82 87 88 92 97 98 156 160
+ 164 168 172
c0 172 0 0.0451529f
c1 152 0 0.0211724f
c2 151 0 0.0207209f
c3 141 0 0.0147546f
c4 126 0 0.0321131f
c5 125 0 0.00882029f
c6 110 0 0.0209403f
c7 101 0 0.210271f
c8 97 0 0.0320645f
c9 95 0 0.166023f
c10 91 0 0.179866f
c11 87 0 0.0121768f
c12 85 0 0.114794f
c13 80 0 0.139871f
c14 79 0 0.0260349f
c15 75 0 0.14169f
c16 71 0 0.179646f
c17 67 0 0.0251526f
c18 65 0 0.116525f
c19 60 0 0.101558f
c20 55 0 0.125833f
c21 51 0 0.161117f
c22 47 0 0.0133979f
c23 45 0 0.116739f
c24 41 0 0.0120527f
c25 40 0 0.00891352f
c26 39 0 0.0804502f
c27 34 0 0.015108f
c28 32 0 0.0104147f
c29 31 0 0.0630793f
c30 27 0 0.0145976f
c31 25 0 0.0748737f
c32 23 0 0.013147f
c33 22 0 0.0057377f
c34 21 0 0.0336211f
c35 17 0 5.59396e-19
c36 15 0 0.0346643f
c37 13 0 0.00552695f
c38 11 0 0.0280688f
c39 7 0 5.53692e-19
r40 151 152 16.3327
r41 145 146 16.3327
r42 141 172 16.3327
r43 135 136 16.3327
r44 132 168 0.178043
r45 125 126 16.3327
r46 120 164 0.255348
r47 119 120 16.3327
r48 116 160 0.187478
r49 110 156 0.123565
r50 109 110 16.3327
r51 103 104 16.3327
r52 100 101 8.16635
r53 98 100 2.295
r54 97 100 2.295
r55 94 95 8.16635
r56 92 94 2.295
r57 90 91 8.16635
r58 88 90 2.295
r59 87 90 2.295
r60 84 85 8.16635
r61 82 84 2.295
r62 79 80 8.16635
r63 77 79 2.295
r64 74 75 8.16635
r65 72 74 2.286
r66 70 71 8.16635
r67 68 70 2.304
r68 67 70 2.286
r69 64 65 8.16635
r70 62 64 2.286
r71 59 60 8.16635
r72 57 59 2.304
r73 54 55 8.16635
r74 52 54 2.286
r75 50 51 8.16635
r76 48 50 2.304
r77 47 50 2.286
r78 44 45 8.16635
r79 42 44 2.286
r80 41 151 19.7234
r81 41 145 17.0426
r82 41 141 19.7234
r83 41 135 17.0426
r84 41 132 16.3327
r85 41 125 19.7234
r86 41 119 17.0426
r87 41 116 16.3327
r88 41 109 19.7234
r89 41 103 17.0426
r90 39 146 0.34087
r91 39 40 0.0296412
r92 38 152 0.173478
r93 38 40 0.0296412
r94 37 101 0.383478
r95 37 40 0.00770322
r96 34 95 0.383478
r97 34 36 0.0195555
r98 33 146 0.00913044
r99 33 36 0.0195555
r100 31 136 0.34087
r101 31 32 0.0296412
r102 30 172 0.138478
r103 30 32 0.0296412
r104 29 91 0.383478
r105 29 32 0.00770322
r106 28 85 0.383478
r107 27 136 0.00913044
r108 27 28 0.039111
r109 26 80 0.381957
r110 25 132 0.111087
r111 25 26 0.044321
r112 24 75 0.381957
r113 23 168 0.063913
r114 23 24 0.0484439
r115 21 164 0.0852174
r116 21 22 0.0296412
r117 20 126 0.173783
r118 20 22 0.0296412
r119 19 71 0.383478
r120 19 22 0.00770322
r121 18 65 0.383478
r122 17 120 0.00943478
r123 17 18 0.039111
r124 16 60 0.381957
r125 15 116 0.110783
r126 15 16 0.044321
r127 14 55 0.381957
r128 13 160 0.0547826
r129 13 14 0.0484439
r130 11 104 0.340565
r131 11 12 0.0296412
r132 10 156 0.0502174
r133 10 12 0.0296412
r134 9 51 0.383478
r135 9 12 0.00770322
r136 8 45 0.383478
r137 7 104 0.00943478
r138 7 8 0.039111
.ends

.subckt PM_DFF%XNAND33/N2_S 1 2
r0 1 2 9.18
.ends

.subckt PM_DFF%XNAND33/N1_S 1 2
c0 1 0 0.01777f
r1 1 2 9.18
.ends

.subckt PM_DFF%XNAND21/N1_S 1 2
c0 1 0 0.0242462f
r1 1 2 9.36
.ends

.subckt PM_DFF%XNAND31/N2_S 1 2
r0 1 2 9.18
.ends

.subckt PM_DFF%XNAND31/N1_S 1 2
r0 1 2 9.18
.ends

.subckt PM_DFF%XNAND22/N1_S 1 2
c0 1 0 0.0300974f
r1 1 2 9.36
.ends

.subckt PM_DFF%XNAND32/N2_S 1 2
r0 1 2 9.18
.ends

.subckt PM_DFF%XNAND32/N1_S 1 2
c0 1 0 0.023161f
r1 1 2 9.18
.ends

.subckt PM_DFF%XNAND34/N2_S 1 2
r0 1 2 9.18
.ends

.subckt PM_DFF%XNAND34/N1_S 1 2
c0 1 0 0.0229217f
r1 1 2 9.18
.ends

